US07585868B2
Synthesis of 1-isopropyl-3-(3,4,5-trimethoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (BA64).
A solution of 3,4,5-trimethoxyphenylboronic acid (123 mg, 0.58 mmol) in EtOH (3.3 ml) was added to a solution of 3-iodo-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (70 mg, 0.23 mmol) in DME (12 ml). Pd(PPh3)4 (30 mg, 0.03 mmol) and saturated Na2CO3 (1.9 ml) were added and the reaction was heated to 80° C. under an argon atmosphere overnight. After cooling, the reaction was extracted with saturated NaCl and CH2Cl2. Organic phases were combined, concentrated in vacuo and purified by silica gel column chromatography [MeOH—CH2Cl2, 2:98] to yield BA64 (70 mg, 89% yield). ESI-MS (M+H)+ m/z calcd 344.1, found 344.0.

reactant | 3,4,5-trimethoxyphenylboronic acid | 0.58 mmol, 123 mg | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | 3-iodo-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.23 mmol, 70 mg | IC1=NN(C2=NC=NC(=C21)N)C(C)C | C8H10IN5
reactant | Na2CO3 | 1.9 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 3.3 ml | CCO | C2H6O
solvent | DME | 12 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.03 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-isopropyl-3-(3,4,5-trimethoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 89% yield | C(C)(C)N1N=C(C=2C1=NC=NC2N)C2=CC(=C(C(=C2)OC)OC)OC | C17H21N5O3
